US06252112B1
Preparation of (1R, 4 S)-1-BOC-amino-4-(hydroxymethyl)-2-cylopentene
75 g of a solution of (1R, 4 S)-1-amino-4-hydroxy-methyl-2-cyclopentene (preparation similar to that in Example 14; 44.6 mmol of the compounds) were adjusted to pH 8 with 30% strength NaOH, and 6 g of NaHCO3 were added. The mixture was heated to 52° C. While stirring vigorously, 60 ml of diisopropyl ether were added and then a solution of 11.12 g of BOC anhydride in 18.2 ml of diisopropyl ether was metered in over the course of 2 h. The mixture was filtered through Celite, and the phases were separated. The aqueous phase was extracted with 65 ml of diisopropyl ether. The combined organic phases were washed with 45 ml of water and then evaporated to 37.5 g and heated to 50° C. 31 ml of n-hexane were added dropwise to the solution. After slowly cooling to 0° C. (2 h), the title compound was filtered, washed with 12 ml of n-hexane/diisopropyl ether {fraction (1/1)} and dried. 6.75 g of product were obtained. The yield was 71%.

reactant | (1R, 4 S)-1-amino-4-hydroxy-methyl-2-cyclopentene | N[C@]1(C=C[C@H](C1)O)C | C6H11NO
reactant | NaOH | [OH-].[Na+]
reactant | NaHCO3 | 6 g | C(=O)(O)[O-].[Na+]
reactant | BOC anhydride | 11.12 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | diisopropyl ether | 18.2 ml | C(C)(C)OC(C)C | C6H14O
solvent | diisopropyl ether | 60 ml | C(C)(C)OC(C)C | C6H14O
product | (1R, 4 S)-1-BOC-amino-4-(hydroxymethyl)-2-cylopentene | 6.75 g, yield was 71% | C(=O)(OC(C)(C)C)[C@@]1(C=C[C@H](C1)CO)N | C11H19NO3
